US06825170B2
(2E)-3-[4-(1H-Imidazol-1-yl)phenyl]-2-propenal
The title compound was prepared by a procedure analogous to Reference Example 30 by substituting 4-(1H-imidazol-1-yl)-benzaldehyde (prepared as described in J. Med Chem. 1998, 41, 2390) for the 4-(1H-pyrazol-1-yl)-benzaldehyde of Reference Example 30. MS 199 (M+H)+.

reactant | 4-(1H-imidazol-1-yl)-benzaldehyde | N1(C=NC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
reactant | 4-(1H-pyrazol-1-yl)-benzaldehyde | N1(N=CC=C1)C1=CC=C(C=O)C=C1 | C10H8N2O
product | (2E)-3-[4-(1H-Imidazol-1-yl)phenyl]-2-propenal | N1(C=NC=C1)C1=CC=C(C=C1)/C=C/C=O | C12H10N2O
